US07101903B2
[1-(4-tert-Butylbenzyl)-5-methoxy-1H-indol-2-yl]methanol
The title compound was prepared from ethyl 1-(4-tert-butylbenzyl)-5-methoxy-1H-indole-2-Carboxylate and lithium aluminum hydride in substantially the same manner, as described in step 3 of Example 1. The product was obtained as an oil. Mass spectrum (ESI, [M−H]−) m/z 322. 1H NMR (400 MHz, DMSO-d6) δ 7.27 (d, 2H, J=8.14 Hz), 7.20 (d, 1H, J=8.70 Hz), 7.01 (d, 1H, J=2.45 Hz), 6.94 (d, 2H, J=8.24 Hz), 6.68 (dd, 1H, J=8.85 and 2.44 Hz), 6.34 (s, 1H), 5.37 (s, 2H), 5.26 (t, 1H), 4.56 (d, 2H, J=4.43 Hz), 3.72 (s, 3H), and 1.21 ppm (s, 9H).

reactant | ethyl 1-(4-tert-butylbenzyl)-5-methoxy-1H-indole-2-Carboxylate | C(C)(C)(C)C1=CC=C(CN2C(=CC3=CC(=CC=C23)OC)C(=O)OCC)C=C1 | C23H27NO3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | [1-(4-tert-Butylbenzyl)-5-methoxy-1H-indol-2-yl]methanol | C(C)(C)(C)C1=CC=C(CN2C(=CC3=CC(=CC=C23)OC)CO)C=C1 | C21H25NO2
